US07163937B2
A sample of benzyl (1S,2R)-2-(isopropylthiomethyl)-4-oxocyclohexylcarbamate (8.66 g, 25.81 mMol) was dissolved in a mixture of iPrOH (50 mL) and triisopropyl orthoformate (50 mL) prior to the portionwise addition of camphorsulfonic acid (1.2 g, 5.16 mMol). After overnight stirring at rt, the reaction was quenched by addition of saturated sodium bicarbonate. Partitioned between EtOAc and water. The aq. layer was re-extracted with EtOAc. Combined organic layer was washed with brine and dried (MgSO4). Filtered, concentrated and flash chromatographed to yield benzyl (1S,2R)-4,4-diisopropoxy-2-(isopropylthiomethyl)cyclohexylcarbamate as a foamy solid (8.376 g, yield=74%)

reactant | benzyl (1S,2R)-2-(isopropylthiomethyl)-4-oxocyclohexylcarbamate | 25.81 mMol, 8.66 g | C(C)(C)SC[C@H]1[C@H](CCC(C1)=O)NC(OCC1=CC=CC=C1)=O | C18H25NO3S
reactant | camphorsulfonic acid | 5.16 mMol, 1.2 g | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
reactant | iPrOH | 50 mL | CC(C)O | C3H8O
solvent | triisopropyl orthoformate | 50 mL | C(OC(C)C)(OC(C)C)OC(C)C | C10H22O3
product | benzyl (1S,2R)-4,4-diisopropoxy-2-(isopropylthiomethyl)cyclohexylcarbamate | 8.376 g, yield=74% | C(C)(C)OC1(C[C@H]([C@H](CC1)NC(OCC1=CC=CC=C1)=O)CSC(C)C)OC(C)C | C24H39NO4S
